US07202363B2
5-bromo-1,2-benzisoxazole
A solution of 5-bromo-2-hydroxy-benzaldehyde (2.0 g, 10 mmol) in ethanol (10 mL) at room temperature was treated with hydroxylamine-O-sulfonic acid (1.69 g, 15 mmol), stirred for 20 minutes, diluted with dichloromethane (50 mL), cooled to 0° C. and treated with a solution of sodium bicarbonate (3 g) in water (25 mL). The solution was stirred at 0° C. for 30 minutes. The organic layer was removed and the aqueous layer was extracted with dichloromethane. The aqueous layer was treated with additional dichloromethane (50 mL) and stirring was continued for one hour. The layers were separated and the aqueous layer was extracted with dicloromethane. The combined organic layers were washed with brine, dried (MgSO4) and concentrated. The concentrate was recrystallized from ethanol to give 970 mg (49%) yield of the desired product. MS (ESI(−)) m/e 195.9, 197.9 (M−H)−

reactant | 5-bromo-2-hydroxy-benzaldehyde | 10 mmol, 2.0 g | BrC=1C=CC(=C(C=O)C1)O | C7H5BrO2
reactant | hydroxylamine-O-sulfonic acid | 15 mmol, 1.69 g | NOS(=O)(=O)O | H3NO4S
reactant | sodium bicarbonate | 3 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | 25 mL | O | H2O
product | 5-bromo-1,2-benzisoxazole | BrC=1C=CC2=C(C=NO2)C1 | C7H4BrNO
